US07160906B2
3-Hydroxy-5-(2-methylbenzyloxy) benzoic acid (20.30 g, 78.6 mM) and acetic anhydride (125 ml, 1.32M) in acetic acid (125 ml) were refluxed for 16 hours. The reaction was cooled and the solvent evaporated ‘in vacuo’. Acetic acid (125 nml) and water (125 ml) were added to the resulting residue and the mixture was stirred for 1 hour at 50° C. Toluene (100 ml) was added and the solvent distilled off ‘in vacuo’ to give 3-acetoxy-5-(2-methylbenzyloxy) benzoic acid as a colourless solid (23.6 g); H1 NMR δ (d6-DMSO) 2.25 (3H s) 2.32 (3H s) 5.12 (2H s) 7.09–7.25 (7H, m).

reactant | 3-Hydroxy-5-(2-methylbenzyloxy) benzoic acid | 78.6 mM, 20.30 g | OC=1C=C(C(=O)O)C=C(C1)OCC1=C(C=CC=C1)C | C15H14O4
reactant | acetic anhydride | 1.32M, 125 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 125 ml | C(C)(=O)O | C2H4O2
product | 3-acetoxy-5-(2-methylbenzyloxy) benzoic acid | 23.6 g | C(C)(=O)OC=1C=C(C(=O)O)C=C(C1)OCC1=C(C=CC=C1)C | C17H16O5
